US07501386B2
Preparation of N-2-naphthyl-1,2,3,4-tetrahydroquinolin-8-amine
To a flask equipped with a magnetic stirrer, reflux condensor, and nitrogen inlet was added 8-aminoquinoline (6.81 grams, 47.2 mmoles), 2-bromonapthalene (9.58 grams, 46.3 mmoles), tris(dibenzylideneacetone)dipalladium (0) (0.84 grams, 0.92 mmoles), rac-2,2′-bis(diphenylphosphino)-1,1′-binapthyl (0.6 grams, 0.92 mmoles), sodium tert-butoxide (8.86 grams, 92.2 mmoles) and anhydrous toluene (90 mL). The contents of the flask were refluxed for sixteen hours; cooled to room temperature; and filtered through a pad of silica gel. The silica gel pad was then eluted with dichloromethane (135 mL). The combined organic layers were concentrated in vacuo to yield a yellow solid. The solid was chromatographed on silica gel, eluting with a hexane/ethyl acetate gradient to afford 6.6 grams of the desired product as a yellow solid. 1H NMR (CDCl3) δ 8.75 (d, 1H), 8.4 (bs, 1H), 8.05 (d, 1H), 7.6-7.9 (m, 5H), 7.25-7.5 (m,5H), 7.2 (d, 1H).

reactant | 8-aminoquinoline | 47.2 mmoles, 6.81 grams | NC=1C=CC=C2C=CC=NC12 | C9H8N2
reactant | 2-bromonapthalene | 46.3 mmoles, 9.58 grams | BrC1=CC2=CC=CC=C2C=C1 | C10H7Br
reactant | sodium tert-butoxide | 92.2 mmoles, 8.86 grams | CC(C)([O-])C.[Na+]
catalyst | tris(dibenzylideneacetone)dipalladium | 0.92 mmoles, 0.84 grams | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | rac-2,2′-bis(diphenylphosphino)-1,1′-binapthyl | 0.92 mmoles, 0.6 grams | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
solvent | toluene | 90 mL | C1(=CC=CC=C1)C | C7H8
product | N-2-naphthyl-1,2,3,4-tetrahydroquinolin-8-amine | 6.6 grams | C1=C(C=CC2=CC=CC=C12)NC=1C=CC=C2CCCNC12 | C19H18N2
